US05643932
In 30 ml of methanol was dissolved 500 mg of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-methoxy-methoxy-5-formylphenyl)thiazole. Thereto was added 3 ml of a 30% methylamine solution. The mixture was stirred at room temperature for 14 hours and at 70° C. for 1 hour. Thereto was added 530 ml of sodium boron hydride with stirring under ice- cooling. The mixture was stirred at room temperature for 3 hours. The solvent was removed from the reaction mixture by distillation. The residue was mixed with 40 ml of ethyl acetate and 20 ml of water, and phase separation was conducted. The organic layer was washed with 10 ml of a saturated aqueous sodium chloride solution, dried and subjected to distillation to remove the solvent. The residue was subjected to silica gel chromatography (eluent: dichloromethane/methanol =49/1 by v/v). From the eluate was obtained 150 mg of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-methoxymethoxy-5-methylaminomethyl-phenyl)thiazole.

reactant | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-methoxy-methoxy-5-formylphenyl)thiazole | 500 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=C(C(=C(C(=C1)C=O)OC)C(=O)OC)OC | C24H25NO7S
reactant | methylamine | CN | CH5N
reactant | sodium boron hydride | 530 ml | B.[Na]
reactant | methanol | 30 ml | CO | CH4O
product | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-methoxymethoxy-5-methylaminomethyl-phenyl)thiazole | 150 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C(=C1)CNC)OCOC)C(=O)OC | C25H30N2O6S
